US05929085
To a mixture of 7-nitro-1,2,3,4-tetrahydroisoquinoline-3-methanol (1.648 g, 7.92 mmol), dichloromethane (60 ml) and triethylamine (1.1 ml), cooled in an ice bath, was added chloroacetyl chloride (0.651 ml). The resulting solution was stirred overnight at room temperature. The reaction mixture was washed with dilute hydrochloric acid and then with water. The organic phase was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to yield 2-chloro-1-(3-hydroxymethyl-7-nitro-1,2,3,4-tetrahydroisoquinolin-2-yl)ethanone (2.08 g); MS 285 (M+H)+.

reactant | 7-nitro-1,2,3,4-tetrahydroisoquinoline-3-methanol | 7.92 mmol, 1.648 g | [N+](=O)([O-])C1=CC=C2CC(NCC2=C1)CO | C10H12N2O3
reactant | dichloromethane | 60 ml | ClCCl | CH2Cl2
reactant | chloroacetyl chloride | 0.651 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
product | 2-chloro-1-(3-hydroxymethyl-7-nitro-1,2,3,4-tetrahydroisoquinolin-2-yl)ethanone | 2.08 g | ClCC(=O)N1CC2=CC(=CC=C2CC1CO)[N+](=O)[O-] | C12H13ClN2O4
